US07855288B2
E. 4-(5-Cyclopropylcarbamoyl-2-methoxy-phenylamino)-6-methyl-pyrrolo[1,2-d][1,2,4]triazine-7-carboxylic acid ethyl ester
To a suspension of HOBt (30 mg, 0.20 mmol), EDCI (30 mg, 0.16 mmol), cyclopropyl amine (20 uL, 0.29 mmol) in DMF (0.5 mL) at RT was added 4-(5-carboxy-2-methoxy-phenylamino)-6-methyl-pyrrolo[1,2-d][1,2,4]triazine-7-carboxylic acid ethyl ester (13 mg, 0.035 mmol). The reaction was stirred overnight. Water (1 mL) was added and the precipitate collected. The product was purified by flash chromatography on silica gel (1-3% MeOH in CH2Cl2) giving the title compound, 7 mg, as a yellowish solid. HPLC (condition A) tR 4.37 min. MS m/z 410 [M+H]+.

reactant | HOBt | 0.20 mmol, 30 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.16 mmol, 30 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | cyclopropyl amine | 0.29 mmol, 20 uL | C1(CC1)N | C3H7N
reactant | 4-(5-carboxy-2-methoxy-phenylamino)-6-methyl-pyrrolo[1,2-d][1,2,4]triazine-7-carboxylic acid ethyl ester | 0.035 mmol, 13 mg | C(C)OC(=O)C=1C=C2N(C(=NN=C2)NC2=C(C=CC(=C2)C(=O)O)OC)C1C | C18H18N4O5
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | Water | 1 mL | O | H2O
product | 4-(5-Cyclopropylcarbamoyl-2-methoxy-phenylamino)-6-methyl-pyrrolo[1,2-d][1,2,4]triazine-7-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=C2N(C(=NN=C2)NC2=C(C=CC(=C2)C(NC2CC2)=O)OC)C1C | C21H23N5O4
